US05739382
2-amino-3'-nitro[1,1'-biphenyl]-3-sulphonic acid
A mixture of 8 g (20 mmol) of sodium 2-amino-5-bromo-3'-nitro[1,1'-biphenyl]-3-sulphonate, 7.6 g (120 mmol) of ammonium formate, 2.35 g (24 mmol) of potassium acetate and 1.38 g (1.2 mmol) of tetrakis(triphenylphosphine)palladium (0) in dimethylformamide is heated at 75° C. for 8 hours. The reaction medium is then concentrated under reduced pressure and the residue is purified by chromatography on an RP 18 column, eluting with a water/acetonitrile mixture (8:2). The product is recrystallized from an ethanol/ether mixture.

reactant | sodium 2-amino-5-bromo-3'-nitro[1,1'-biphenyl]-3-sulphonate | 20 mmol, 8 g | NC1=C(C=C(C=C1S(=O)(=O)[O-])Br)C1=CC(=CC=C1)[N+](=O)[O-].[Na+]
reactant | ammonium formate | 120 mmol, 7.6 g | C(=O)[O-].[NH4+]
reactant | potassium acetate | 24 mmol, 2.35 g | C(C)(=O)[O-].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 1.2 mmol, 1.38 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-amino-3'-nitro[1,1'-biphenyl]-3-sulphonic acid | NC1=C(C=CC=C1S(=O)(=O)O)C1=CC(=CC=C1)[N+](=O)[O-] | C12H10N2O5S
